US07622589B2
84A) 1-[2-Morpholin-4-yl-6-(trifluoromethyl)pyridin-3-yl]ethanol
To a diethylether (7.0 ml) solution of 2-morpholin-4-yl-6-(trifluoromethyl)pyridine-3-carbaldehyde (Jornal of Medicinal Chemistry, 2005, 48, p 71-90, 0.88 g, 3.4 mmol) was added THF solution of methylmagnesiumchloride (3.0M, 1.36 ml) at 0° C. and the mixture was stirred for 0.5 h. The same procedure as described in Example 9C was performed to give the title compound as a colorless oil (quant. 0.9 g).

reactant | diethylether | 7.0 ml | C(C)OCC | C4H10O
reactant | 2-morpholin-4-yl-6-(trifluoromethyl)pyridine-3-carbaldehyde | 3.4 mmol, 0.88 g | N1(CCOCC1)C1=NC(=CC=C1C=O)C(F)(F)F | C11H11F3N2O2
reactant | methylmagnesiumchloride | 3.0M, 1.36 ml | C[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-Morpholin-4-yl-6-(trifluoromethyl)pyridin-3-yl]ethanol | 0.9 g | N1(CCOCC1)C1=NC(=CC=C1C(C)O)C(F)(F)F | C12H15F3N2O2
